US07476759B2
4-Benzyl 1-tert-butyl 2-[4-(isopentyloxy)phenyl]succinate
Lithium bis(trimethylsilyl)amide (1.06 M in THF; 7.11 mL, 7.54 mmol) was added dropwise over 10 min to a stirred solution of tert-butyl [4-(isopentyloxy)phenyl]acetate (2.00 g, 7.18 mmol) in THF (25 mL) at −78° C. under nitrogen. On completion of addition stirring was continued at −78° C. for 30 min then benzyl-2-bromoacteate (1.97 g, 1.36 mL, 8.61 mmol) was added dropwise over 5 min. The reaction was allowed to warm slowly to room temperature over 4 h. Once at room temperature saturated ammonium chloride solution (25 mL) was added and the resulting suspension extracted with ethyl acetate (3×50 mL). The organic phases were combined, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on silica gel (5-10% diethyl ether: cyclohexane) to give the title compound as a colourless oil (2.00 g, 66%). LC/MS: 4.20 min; z/e 427, calcd (M+1) 427. 1H NMR (400 MHz: CDCl3): 7.35 (5H), 7.2 (2H), 6.80 (2H), 5.10 (2H), 3.95 (3H), 3.15 (1H), 2.65 (1H), 1.85 (1H), 1.65 (2H), 1.45 (9H), 0.95 (6H).

reactant | Lithium bis(trimethylsilyl)amide | 7.54 mmol, 1.06 M, 7.11 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tert-butyl [4-(isopentyloxy)phenyl]acetate | 7.18 mmol, 2.00 g | C(CC(C)C)OC1=CC=C(C=C1)CC(=O)OC(C)(C)C | C17H26O3
reactant | benzyl-2-bromoacteate | 8.61 mmol, 1.36 mL, 1.97 g | C(C1=CC=CC=C1)OC(CBr)=O | C9H9BrO2
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-Benzyl 1-tert-butyl 2-[4-(isopentyloxy)phenyl]succinate | 2.00 g, 66% | C(CC(C)C)OC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)CC(=O)OCC1=CC=CC=C1 | C26H34O5
